### ISSUE TITLE
`fail_if_success` fails despite no success

### ISSUE THREAD

**Issue by Vtec234** [leanprover/lean4#1375]
### Description

```lean
example : True := by
  /- tactic 'assumption' failed
  ⊢ False -/
  /- tactic succeeded -/
  fail_if_success (have : False := by assumption)
  trivial

example : True := by
  have : False := by
    fail_if_success assumption
    sorry
  trivial
```

### Steps to Reproduce

**Expected behavior:** The first variant should succeed (since the `have` fails).

**Actual behavior:** It reports that the tactic succeeded.

**Reproduces how often:** 100%

### Versions

`nightly-2022-07-27` and 00dd9da3045a5abbbcddecd69c2e6839f6ea7e7f

### Additional Information

I apologize for the title :)
